US04826854
A solution of 85 g of the mixture of cyclooctanone and diethyl N-(1-cyclooctenyl)-aminomethylenemalonate in 20 ml. of Dowtherm® (a eutectic mixture of diphenyl ether and biphenyl) is added to 380 ml. Dowtherm® at 250°-255° under nitrogen. The distillate is collected in a water separator. After 0.5 hour the mixture is cooled to room temperature and solvent is removed under reduced pressure. The residual solid is triturated with ether to give ethyl 5,6,7,8,9,10-hexahydro-4-hydroxycycloocta[b]pyridine-3-carboxylate, m.p. 219°-222°.

reactant | cyclooctanone | C1(CCCCCCC1)=O | C8H14O
reactant | diethyl N-(1-cyclooctenyl)-aminomethylenemalonate | C1(=CCCCCCC1)NC=C(C(=O)OCC)C(=O)OCC | C16H25NO4
reactant | Dowtherm | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | biphenyl | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
product | ethyl 5,6,7,8,9,10-hexahydro-4-hydroxycycloocta[b]pyridine-3-carboxylate | OC1=C2C(=NC=C1C(=O)OCC)CCCCCC2 | C14H19NO3
